US07544704B2
6-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-pyridin-3-ylamine
As described for example 11c, 4-ethynyl-5-methyl-3-phenyl-isoxazole (92 mg, 0.50 mmol) was converted (using 3-amino-6-bromopyridine instead of 2-chloro-4-iodopyridine) to the title compound (SiO2, heptane:ethyl acetate=95:5 to 0:100, 68 mg, 49%) which was obtained as a light brown foam. MS: m/e=276.3 [M+H]+.

reactant | 4-ethynyl-5-methyl-3-phenyl-isoxazole | 0.50 mmol, 92 mg | C(#C)C=1C(=NOC1C)C1=CC=CC=C1 | C12H9NO
reactant | 3-amino-6-bromopyridine | NC=1C=NC(=CC1)Br | C5H5BrN2
product | 6-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-pyridin-3-ylamine | 68 mg, 49% | CC1=C(C(=NO1)C1=CC=CC=C1)C#CC1=CC=C(C=N1)N | C17H13N3O
